** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/and_custom.sch
.subckt and_custom VDD OUT A B VSS
*.PININFO A:I VDD:B OUT:O VSS:B B:I
x1 VDD OUT net1 VSS inv
x2 VDD net1 A B VSS nand_custom
.ends

* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
M2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  nand_custom.sym # of pins=5
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/nand_custom.sch
.subckt nand_custom VDD OUT A B VSS
*.PININFO VDD:B VSS:B A:I B:I OUT:O
M1 OUT A net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M2 OUT A VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
M3 net1 B VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
M4 OUT B VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
.ends

